US04889856
Step C: Preparation of 2-Cyclopropyl-4-(1-piperazinyl)-dihydrothieno[3,4-d]pyrimidine dihydrochloride
Employing the procedures substantially as described in Example 11 but starting with the appropriate carboxamidine in place of cyclopropylcarboxamidine, there are prepared: 2-phenyl-4-(1-piperazinyl)dihydrothieno[3,4-d]pyrimidine dihydrochloride hemihydrate, m.p. 208°-212° C. (dec.); 2-ethylthio-4-(1-piperazinyl)dihydrothieno[3,4-d]pyrimidine maleate, m.p. 189° C. (dec.); and 2-methyl-4-(1-piperazinyl)dihydrothieno[3,4-d]pyrimidine dihydrochloride hemihydrate, m.p. 235° C. (dec).

reactant | 2-phenyl-4-(1-piperazinyl)dihydrothieno[3,4-d]pyrimidine dihydrochloride hemihydrate | O.Cl.Cl.C1(=CC=CC=C1)C1N=C(C=2C(N1)=CSC2)N2CCNCC2.C2(=CC=CC=C2)C2N=C(C=1C(N2)=CSC1)N1CCNCC1.Cl.Cl
reactant | 2-ethylthio-4-(1-piperazinyl)dihydrothieno[3,4-d]pyrimidine maleate | C(\C=C/C(=O)O)(=O)O.C(C)SC1N=C(C=2C(N1)=CSC2)N2CCNCC2
reactant | 2-methyl-4-(1-piperazinyl)dihydrothieno[3,4-d]pyrimidine dihydrochloride hemihydrate | O.Cl.Cl.CC1N=C(C=2C(N1)=CSC2)N2CCNCC2.CC2N=C(C=1C(N2)=CSC1)N1CCNCC1.Cl.Cl
product | 2-Cyclopropyl-4-(1-piperazinyl)-dihydrothieno[3,4-d]pyrimidine dihydrochloride | Cl.Cl.C1(CC1)C1N=C(C=2C(N1)=CSC2)N2CCNCC2 | InChI=1S/C13H18N4S.2ClH/c1-2-9(1)12-15-11-8-18-7-10(11)13(16-12)17-5-3-14-4-6-17;;/h7-9,12,14-15H,1-6H2;2*1H
